### PR TITLE
[Merged by Bors] - feat({Ring|Field}Theory/Adjoin): add various results on adjoin

### PR DESCRIPTION
**Pull request by acmepjz**
Main changes:

- for intermediate fields: add `extendScalars_adjoin`, `restrictScalars_adjoin_of_algEquiv`, `sup_toSubalgebra_of_isAlgebraic`, `adjoin_toSubalgebra_of_isAlgebraic`, `adjoin_rank_le_of_isAlgebraic`, and golf `sup_toSubalgebra`
- for subalgebras: add `adjoin_eq_span_of_eq_span`, `adjoin_eq_span_basis`, `restrictScalars_adjoin`, `restrictScalars_adjoin_of_algEquiv`, `adjoin_rank_le`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Adjoin.lean [hunk 1]
```diff
@@ -648,29 +673,30 @@ theorem le_sup_toSubalgebra : E1.toSubalgebra ⊔ E2.toSubalgebra ≤ (E1 ⊔ E2
   sup_le (show E1 ≤ E1 ⊔ E2 from le_sup_left) (show E2 ≤ E1 ⊔ E2 from le_sup_right)
 #align intermediate_field.le_sup_to_subalgebra IntermediateField.le_sup_toSubalgebra
 
-theorem sup_toSubalgebra [h1 : FiniteDimensional K E1] [h2 : FiniteDimensional K E2] :
+/-- The compositum of two intermediate fields is equal to the compositum of them
+as subalgebras, if one of them is algebraic over the base field. -/
+theorem sup_toSubalgebra_of_isAlgebraic
+    (halg : Algebra.IsAlgebraic K E1 ∨ Algebra.IsAlgebraic K E2) :
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Adjoin.lean:679]: I think it's better to have two results (called `isAlgebraic_left` and ...) rather than using `∨`. Or we can even keep only one and use commutativity of `⊔` when needed.

File: Mathlib/FieldTheory/Adjoin.lean [hunk 2]
```diff
@@ -648,29 +673,30 @@ theorem le_sup_toSubalgebra : E1.toSubalgebra ⊔ E2.toSubalgebra ≤ (E1 ⊔ E2
...
+  erw [← restrictScalars_toSubalgebra, restrictScalars_adjoin,
+    Algebra.restrictScalars_adjoin] at this
+  exact this
+
+theorem sup_toSubalgebra [FiniteDimensional K E1] :
+    (E1 ⊔ E2).toSubalgebra = E1.toSubalgebra ⊔ E2.toSubalgebra :=
+  E1.sup_toSubalgebra_of_isAlgebraic E2 (Or.inl (Algebra.IsAlgebraic.of_finite K _))
 #align intermediate_field.sup_to_subalgebra IntermediateField.sup_toSubalgebra
 
+theorem sup_toSubalgebra' [FiniteDimensional K E2] :
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Adjoin.lean:696]: I am a little lost, what is the difference with `sup_toSubalgebra`?

File: Mathlib/FieldTheory/Adjoin.lean [hunk 3]
```diff
@@ -749,6 +775,43 @@ theorem isSplittingField_iSup {p : ι → K[X]}
...
+section Tower
+
+variable (E)
+
+variable {K : Type*} [Field K] [Algebra F K] [Algebra E K] [IsScalarTower F E K]
+
+/-- If `K / E / F` is a field extension tower, `L` is an intermediate field of `K / F`, such that
+either `L / F` or `E / F` is algebraic, then `E(L) = E[L]`. -/
+theorem adjoin_toSubalgebra_of_isAlgebraic (L : IntermediateField F K)
+    (halg : Algebra.IsAlgebraic F E ∨ Algebra.IsAlgebraic F L) :
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Adjoin.lean:787]: Same as above, it's better to avoid `∨`.

File: Mathlib/FieldTheory/Adjoin.lean [hunk 4]
```diff
@@ -749,6 +775,43 @@ theorem isSplittingField_iSup {p : ι → K[X]}
...
+  apply_fun _ using Subalgebra.restrictScalars_injective F
+  erw [← restrictScalars_toSubalgebra, restrictScalars_adjoin_of_algEquiv i' hi,
+    Algebra.restrictScalars_adjoin_of_algEquiv i' hi, restrictScalars_adjoin,
+    Algebra.restrictScalars_adjoin]
+  exact E'.sup_toSubalgebra_of_isAlgebraic L halg'
+
+/-- If `K / E / F` is a field extension tower, `L` is an intermediate field of `K / F`, such that
+either `L / F` or `E / F` is algebraic, then `[E(L) : E] ≤ [L : F]`. A corollary of
+`Subalgebra.adjoin_rank_le` since in this case `E(L) = E[L]`. -/
+theorem adjoin_rank_le_of_isAlgebraic (L : IntermediateField F K)
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Adjoin.lean:804]: Same.

File: Mathlib/FieldTheory/Adjoin.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Adjoin.lean:696]: The original `sup_toSubalgebra` requires both to be finite dimensional. I changed the original `sup_toSubalgebra` to only requires that the first to be finite dimensional. This second version `sup_toSubalgebra'` only requires that the second to be finite dimensional.

File: Mathlib/FieldTheory/Adjoin.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Adjoin.lean:787]: Note that the conclusion of this result is not symmetric in `E` and `L`, in fact one of them is an abstract field while another one is an intermediate field. If we want two separated results, then the same proof needs to be copied twice.

Comment (riccardobrasca) [reply Mathlib/FieldTheory/Adjoin.lean:787]: Mmm, ok, it doesn't matter a lot.

File: Mathlib/FieldTheory/Adjoin.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/FieldTheory/Adjoin.lean:696]: Can you use a clearer name? Something with `left` and `right`, or `first` and `second`.

Comment (acmepjz) [reply Mathlib/FieldTheory/Adjoin.lean:696]: Sure, will change it later.

File: Mathlib/FieldTheory/Adjoin.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Adjoin.lean:787]: I think we can keep this version and add `isAlgebraic_{left|right}` versions as special cases of it. Is it OK?

Comment (riccardobrasca) [reply Mathlib/FieldTheory/Adjoin.lean:787]: Yes, perfect. You can make it private maybe. Having the two versions nobody will ever use the one with the `\or`.

Comment (acmepjz) [reply Mathlib/FieldTheory/Adjoin.lean:787]: It's expected that the `∨` version will be used in `LinearDisjoint`, though. 😂

File: Mathlib/FieldTheory/Adjoin.lean [hunk 5]
```diff
@@ -749,6 +782,63 @@ theorem isSplittingField_iSup {p : ι → K[X]}
...
+either `E / F` or `L / F` is algebraic, then `E(L) = E[L]`. -/
+theorem adjoin_toSubalgebra_of_isAlgebraic (L : IntermediateField F K)
+    (halg : Algebra.IsAlgebraic F E ∨ Algebra.IsAlgebraic F L) :
+    (adjoin E (L : Set K)).toSubalgebra = Algebra.adjoin E (L : Set K) := by
+  let i := IsScalarTower.toAlgHom F E K
+  let E' := i.fieldRange
+  let i' : E ≃ₐ[F] E' := AlgEquiv.ofInjectiveField i
+  have hi : algebraMap E K = (algebraMap E' K) ∘ i' := by ext x; rfl
+  have halg' : Algebra.IsAlgebraic F E' ∨ Algebra.IsAlgebraic F L :=
+    halg.elim (Or.inl ∘ i'.isAlgebraic) Or.inr
```
Comment (alreadydone) [inline Mathlib/FieldTheory/Adjoin.lean:801]:
```suggestion
    halg.imp i'.isAlgebraic id
```
(untested)

File: Mathlib/FieldTheory/Adjoin.lean [hunk 6]
```diff
@@ -648,29 +673,37 @@ theorem le_sup_toSubalgebra : E1.toSubalgebra ⊔ E2.toSubalgebra ≤ (E1 ⊔ E2
...
+
+/-- The compositum of two intermediate fields is equal to the compositum of them
+as subalgebras, if one of them is algebraic over the base field. -/
+theorem sup_toSubalgebra_of_isAlgebraic
+    (halg : Algebra.IsAlgebraic K E1 ∨ Algebra.IsAlgebraic K E2) :
+    (E1 ⊔ E2).toSubalgebra = E1.toSubalgebra ⊔ E2.toSubalgebra :=
+  halg.elim (sup_toSubalgebra_of_isAlgebraic_left E1 E2)
+    (sup_toSubalgebra_of_isAlgebraic_right E1 E2)
+
+theorem sup_toSubalgebra [FiniteDimensional K E1] :
```
Comment (alreadydone) [inline Mathlib/FieldTheory/Adjoin.lean:698]: Should this be `sup_toSubalgebra_of_left`? It's only used once, in the same file. You just need to add
`@[deprecated] alias sup_toSubalgebra := sup_toSubalgebra_of_left`

File: Mathlib/RingTheory/Adjoin/Basic.lean [hunk 7]
```diff
@@ -480,4 +480,55 @@ def Subring.closureEquivAdjoinInt {R : Type*} [Ring R] (s : Set R) :
...
+/-- If `K / E / F` is a ring extension tower, `L` is a subalgebra of `K / F` which is generated by
+`S` as an `F`-module, then `E[L]` is generated by `S` as an `E`-module. -/
+theorem Subalgebra.adjoin_eq_span_of_eq_span {F : Type*} (E : Type*) {K : Type*}
+    [CommSemiring F] [CommSemiring E] [CommSemiring K]
+    [Algebra F E] [Algebra E K] [Algebra F K] [IsScalarTower F E K]
+    (L : Subalgebra F K) {S : Set K}
+    (h : Subalgebra.toSubmodule L = Submodule.span F S) :
+    Subalgebra.toSubmodule (Algebra.adjoin E (L : Set K)) = Submodule.span E S := by
+  have h0 := h.symm ▸ Submodule.span_le_restrictScalars F E S
+  change (L : Set K) ⊆ Submodule.span E S at h0
```
Comment (alreadydone) [inline Mathlib/RingTheory/Adjoin/Basic.lean:494]:
```suggestion
  have h0 : (L : Set K) ⊆ Submodule.span E S := h.symm ▸ Submodule.span_le_restrictScalars F E S
```
(untested)

Comment (acmepjz) [reply Mathlib/RingTheory/Adjoin/Basic.lean:494]: No, that doesn't work. I don't know why, maybe `▸` doesn't like this syntax.

File: Mathlib/RingTheory/Adjoin/Field.lean [hunk 8]
```diff
@@ -108,3 +108,15 @@ theorem IsIntegral.minpoly_splits_tower_top [Algebra K L] [IsScalarTower R K L]
...
+then `[E[L] : E] ≤ [L : F]`. -/
+lemma Subalgebra.adjoin_rank_le {F : Type*} (E : Type*) {K : Type*}
+    [Field F] [CommRing E] [StrongRankCondition E] [CommRing K]
+    [Algebra F E] [Algebra E K] [Algebra F K] [IsScalarTower F E K]
+    (L : Subalgebra F K) :
+    Module.rank E (Algebra.adjoin E (L : Set K)) ≤ Module.rank F L := by
+  obtain ⟨ι, ⟨bL⟩⟩ := Basis.exists_basis F L
+  change Module.rank E (Subalgebra.toSubmodule (Algebra.adjoin E (L : Set K))) ≤ _
+  rw [L.adjoin_eq_span_basis E bL, ← bL.mk_eq_rank'']
+  exact rank_span_le _ |>.trans Cardinal.mk_range_le
```
Comment (alreadydone) [inline Mathlib/RingTheory/Adjoin/Field.lean:122]: slight generalization and golf:
```suggestion
lemma Subalgebra.adjoin_rank_le {F : Type*} (E : Type*) {K : Type*}
    [CommRing F] [StrongRankCondition F] [CommRing E] [StrongRankCondition E] [Ring K]
    [SMul F E] [Algebra E K] [Algebra F K] [IsScalarTower F E K]
    (L : Subalgebra F K) [Module.Free F L] :
    Module.rank E (Algebra.adjoin E (L : Set K)) ≤ Module.rank F L := by
  rw [← rank_toSubmodule, Module.Free.rank_eq_card_chooseBasisIndex F L,
    L.adjoin_eq_span_basis E (Module.Free.chooseBasis F L)]
  exact rank_span_le _ |>.trans Cardinal.mk_range_le
```

File: Mathlib/RingTheory/Adjoin/Basic.lean [hunk 9]
```diff
@@ -480,4 +480,55 @@ def Subring.closureEquivAdjoinInt {R : Type*} [Ring R] (s : Set R) :
...
+    [IsScalarTower F L E] [IsScalarTower F L' E] (i : L ≃ₐ[F] L')
+    (hi : algebraMap L E = (algebraMap L' E) ∘ i) (S : Set E) :
+    (Algebra.adjoin L S).restrictScalars F = (Algebra.adjoin L' S).restrictScalars F := by
+  apply_fun Subalgebra.toSubsemiring using (fun K K' h ↦ by
+    ext x; change x ∈ K.toSubsemiring ↔ x ∈ K'.toSubsemiring; rw [h])
+  change Subsemiring.closure _ = Subsemiring.closure _
+  congr
+  ext x
+  exact ⟨fun ⟨y, h⟩ ↦ ⟨i y, by rw [← h, hi]; rfl⟩,
+    fun ⟨y, h⟩ ↦ ⟨i.symm y, by rw [← h, hi, Function.comp_apply, AlgEquiv.apply_symm_apply]⟩⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/Adjoin/Basic.lean:534]: Golfs, generalizations & extraction of variables and a lemma.
```suggestion
section

variable (F E : Type*) {K : Type*} [CommSemiring E] [Semiring K] [SMul F E] [Algebra E K]

/-- If `K / E / F` is a ring extension tower, `L` is a submonoid of `K / F` which is generated by
`S` as an `F`-module, then `E[L]` is generated by `S` as an `E`-module. -/
theorem Submonoid.adjoin_eq_span_of_eq_span [Semiring F] [Module F K] [IsScalarTower F E K]
    (L : Submonoid K) {S : Set K} (h : (L : Set K) = span F S) :
    toSubmodule (adjoin E (L : Set K)) = span E S := by
  rw [adjoin_eq_span, L.closure_eq, h]
  exact (span_le.mpr <| span_subset_span _ _ _).antisymm (span_mono subset_span)

variable [CommSemiring F] [Algebra F K] [IsScalarTower F E K] (L : Subalgebra F K) {F}

/-- If `K / E / F` is a ring extension tower, `L` is a subalgebra of `K / F` which is generated by
`S` as an `F`-module, then `E[L]` is generated by `S` as an `E`-module. -/
theorem Subalgebra.adjoin_eq_span_of_eq_span {S : Set K} (h : toSubmodule L = span F S) :
    toSubmodule (adjoin E (L : Set K)) = span E S :=
  L.toSubmonoid.adjoin_eq_span_of_eq_span F E (congr_arg ((↑) : _ → Set K) h)

/-- If `K / E / F` is a ring extension tower, `L` is a subalgebra of `K / F`,
then `E[L]` is generated by any basis of `L / F` as an `E`-module. -/
theorem Subalgebra.adjoin_eq_span_basis {ι : Type*} (bL : Basis ι F L) :
    toSubmodule (adjoin E (L : Set K)) = span E (Set.range fun i : ι ↦ (bL i).1) :=
  L.adjoin_eq_span_of_eq_span E <| by
    simpa only [← L.range_val, Submodule.map_span, Submodule.map_top, ← Set.range_comp]
      using congr_arg (Submodule.map L.val) bL.span_eq.symm

theorem Algebra.restrictScalars_adjoin (F : Type*) [CommSemiring F] {E : Type*} [CommSemiring E]
    [Algebra F E] (K : Subalgebra F E) (S : Set E) :
    (Algebra.adjoin K S).restrictScalars F = Algebra.adjoin F (K ∪ S) := by
  conv_lhs => rw [← Algebra.adjoin_eq K, ← Algebra.adjoin_union_eq_adjoin_adjoin]

/-- If `E / L / F` and `E / L' / F` are two ring extension towers, `L ≃ₐ[F] L'` is an isomorphism
compatible with `E / L` and `E / L'`, then for any subset `S` of `E`, `L[S]` and `L'[S]` are
equal as subalgebras of `E / F`. -/
theorem Algebra.restrictScalars_adjoin_of_algEquiv
    {F E L L' : Type*} [CommSemiring F] [CommSemiring L] [CommSemiring L'] [Semiring E]
    [Algebra F L] [Algebra L E] [Algebra F L'] [Algebra L' E] [Algebra F E]
    [IsScalarTower F L E] [IsScalarTower F L' E] (i : L ≃ₐ[F] L')
    (hi : algebraMap L E = (algebraMap L' E) ∘ i) (S : Set E) :
    (Algebra.adjoin L S).restrictScalars F = (Algebra.adjoin L' S).restrictScalars F := by
  apply_fun Subalgebra.toSubsemiring using fun K K' h ↦ by rwa [SetLike.ext'_iff] at h ⊢
  change Subsemiring.closure _ = Subsemiring.closure _
  erw [hi, Set.range_comp, i.toEquiv.range_eq_univ, Set.image_univ]

end
```

**Review by alreadydone — APPROVED** [review]
